Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
toxic multinodular goiter 
 
Major Surgical or Invasive Procedure:
___ total thyroidectomy with Dr. ___

 
___ of Present Illness:
In ___, Ms. ___ was evaluated by thyroid ultrasound at 
an
OSH for an enlarged thyroid gland and unexplained weight loss.
Ultrasound identified multiple thyroid nodules, the largest
measuring up to 2.6 cm. Around the time (___), her TSH 
was
suppressed at less than 0.02 and her free T4 was normal at 1.5.
She was referred to endocrinology, which she postponed until
seeing Dr. ___ on ___ (initial full H&P at ___.
She was started on 10mg methimazole daily. 

She transferred her care to ___ since, she explained, ___ was
closer to her source of drugs (specifically, crack cocaine). She
had the thyroidectomy scheduled at ___ ___ years ago, but the
surgery was cancelled due to her active use of crack cocaine
(used the night before surgery).

Since then, she has transferred her endocrinology care back to
___ (currently with Dr. ___. In ___, an FNA of the
left isthmus nodule demonstrated benign cytology. 

She has remained on various doses of methimazole, currently 5mg
daily. She ran out of methimazole 5 days ago, expressing having
been to busy to pick up a refill, and described feeling episodes
of increased anxiety, heart palpitations, and "internal tremors"
since not taking methimazole. She plans to refill her
prescription today. 

Even while consistently taking her methimazole, she endorses the
following symptoms of hyperthyroidism: trouble keeping weight 
on,
heat intolerance, "swollen  neck," episodes of trouble catching
her breath, nocturnal hot flashes. She denies compression
symptoms (dysphagia, hoarseness, odynophagia). She also denies
symptoms often associated with chronic methimazole use:  fevers,
sore throats, or jaundice.

She denies a history of radiation exposure. Notably, her mother
had a partial thyroidectomy for a multinodular goiter, and her
sister and maternal aunt both had total thyroidectomies for
diagnosed thyroid cancer.

 
Past Medical History:
PMH: Hyperthyroidism, multinodular goiter, depression, anxiety,
fibroid uterus, anemia, lactose intolerance, history of seizures
secondary to crack cocaine use in the past, sclerosing
intraductal papilloma

PSH: Appendectomy (___), lumpectomy, surgery for ectopic
pregnancy
 
Social History:
___
Family History:
FH: History of thyroid cancer in sister and maternal aunt s/p
total thyroidectomies, multinodular goiter in mother s/p partial
thyroidectomy. Otherwise, non-contributory
 
Physical Exam:
On discharge: 

GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric, dressing c/d/I without hematoma or
swelling 
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___
 
Pertinent Results:
___ 10:52AM BLOOD Calcium-8.7
___ 10:52AM BLOOD PTH-68*
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for a 
total thyroidectomy with Dr. ___. He/She tolerated the 
procedure well without complications (Please see operative note 
for further details). After a brief and uneventful stay in the 
PACU, the patient was transferred to the floor for further 
post-operative management.

During her hospitalization her blood pressure spiked and was 
managed with Hydralazine and Amlodipine. An appointment with her 
PCP at ___ was scheduled for 
___ at 4:30pm (day after discharge) to manage this chronic 
condition.

Neuro: Pain was well controlled on acetaminophen
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. She was given 
IV hydralazine in the PACU for SBP over 170.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. Patient's intake and output were closely 
monitored
GU: At time of discharge, the patient was voiding without 
difficulty.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever
Heme: She was encouraged to get up and ambulate as early as 
possible. 

On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.

 
Medications on Admission:
methimazole 5', mirtazapine 15', melatonin 5', naltrexone 
monthly injections for alcohol use
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H do not take more than 4000mg 
acetaminophen in 24 hours  
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Every morning Disp #*5 
Tablet Refills:*0 
3.  Chloraseptic Throat Spray 1 SPRY PO Q6H:PRN sore throat  
4.  Levothyroxine Sodium 88 mcg PO DAILY 
RX *levothyroxine [Euthyrox] 88 mcg 1 tablet(s) by mouth once a 
day Disp #*45 Tablet Refills:*0 
5.  melatonin 5 mg oral QHS  
6.  Mirtazapine 15 mg PO QHS  
7.  Naltrexone Extended-release Suspension 380 mg IM EVERY 4  
WEEKS (WE) alcohol use  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
toxic multinodular goiter 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a regular diet and may return home to continue 
your recovery. You will be discharged home on thyroid hormone 
replacement and calcium supplement, please take as prescribed. 
Monitor for symptoms of low Calcium such as numbness or tingling 
around mouth/fingertips or muscle cramps in your legs. If you 
experience any of these symptoms please call Dr. ___ 
___ for advice or if you have severe symptoms go to the 
emergency room. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed.  You may also take acetaminophen 
(Tylenol) as directed, but do not exceed 4000 mg in one day. 
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.
You were started on amlodipine 5mg qday for your high blood 
pressure, please follow up with your primary care doctor for 
long-term management of your blood pressure. 
Thank you for allowing us to participate in your care.

 
Followup Instructions:
___